US07622492B2
A solution of di-tert-butyl dicarbonate (14.40 g, 66 mmol) in dichloromethane (33 mL) was added to a cooled (0° C.) solution of cyclopropylamine (5 mL, 72.1 mmol) in dichloromethane (17 mL) over 2 min, and vigorous gas evolution was observed. The cooling bath was removed and the solution was stirred at room temperature for 1 h. The solvent was evaporated to give cyclopropyl-carbamic acid tert-butyl ester (9.8 g, 95%) as a white solid which was used directly in the next step without purification.

reactant | di-tert-butyl dicarbonate | 66 mmol, 14.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | cyclopropylamine | 72.1 mmol, 5 mL | C1(CC1)N | C3H7N
solvent | dichloromethane | 33 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
product | cyclopropyl-carbamic acid tert-butyl ester | 9.8 g, 95% | C(C)(C)(C)OC(NC1CC1)=O | C8H15NO2
